US09119868B2
A suspension of 5-cyclopropyl-6-(N-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (200 mg, 0.32 mmol), polymer supported benzeneboronic acid (600 mg, 1.60 mmol) and aqueous 5N HCl (0.45 mL, 2.24 mmol) in tetrahydrofuran (20 mL) was stirred at room temperature for 24 h. The solution was filtered, concentrated to dryness, and purified by reverse phase HPLC to afford 4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluorophenylboronic acid (61 mg, 0.11 mmol, 35% yield) as a white solid. 1H NMR (METHANOL-d4) δ 8.03 (s, 1H), 7.97-7.79 (m, 2H), 7.57 (dd, 3H), 7.24 (dd, 3H), 3.29 (s, 3H), 2.94 (s, 3H), 2.42 (s, 1H), 1.00 (d, 2H), 0.69 (s, 2H). LCMS (m/z, ES+)=541 (M+H+).

reactant | 5-cyclopropyl-6-(N-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.32 mmol, 200 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C32H33BF2N2O6S
reactant | benzeneboronic acid | 1.60 mmol, 600 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | HCl | 2.24 mmol, 5N, 0.45 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluorophenylboronic acid | 0.11 mmol, 61 mg, 35% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=C(C=C(C=C1)B(O)O)F | C26H23BF2N2O6S
